US08389726B2
Preparation of Dimethylbiguanide Zinc Complex
Dimethylbiguanide (33 mg) was dissolved in 1 mL of water, after which 0.44 mL of 1 M potassium t-butoxide in t-butanol was added and the solution stirred for 10 minutes. Zinc chloride in diethyl ether (0.22 mL of 1M solution) was added and the solution stirred for 5 hours. The resultant precipitant was separated from the liquid by centrifuging at 8,000 rpm for 6 minutes and the supernatant was decanted. The pellet was washed by adding 1 mL of water, vortex mixed, centrifuged and the supernatant decanted. After an overnight drying under high vacuum the yield was 20 mg of a free flowing white powder which contained no organic material by 1H NMR. The isolated product was zinc salts in various hydrated forms.

reactant | Dimethylbiguanide | 33 mg | CN=C(NC(N)=NC)N | C4H11N5
reactant | potassium t-butoxide | 1 M, 0.44 mL | CC(C)([O-])C.[K+]
reactant | Zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | 1 mL | O | H2O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | diethyl ether | 1M, 0.22 mL | C(C)OCC | C4H10O
product | Dimethylbiguanide Zinc | [Zn].CN=C(NC(N)=NC)N | InChI=1S/C4H11N5.Zn/c1-7-3(5)9-4(6)8-2;/h1-2H3,(H5,5,6,7,8,9);
